US04234598
1.3 G. of sodium hydride (50% dispersion in oil) are washed twice with petroleum ether (40°-45° C.) and then suspended in 30 ml. of absolute benzene in a flask. 4.15 G. 1,5-benzodioxepin-6-ol (0.025 mol) are added stepwise with stirring and under a nitrogen atmosphere. This mixture is stirred for 30 minutes at room temperature and then a solution of 6.7 g. of N-trichloromethylthio-N-methyl carbamyl chloride (freshly prepared) in 30 ml. of absolute benzene is added over a 30 minute period. The resulting mixture is stirred at room temperature for four hours, then poured into 50 ml. of ice water and extracted three times with 30 ml. of benzene. The benzene extracts are washed with water, dried over sodium sulfate and evaporated. The crude product is chromatographed on silica gel and eluted with dichloromethylene. On evaporation, 3,4-dihydro-2H-1,5-benzodioxepin-6-yl-[(trichloromethyl)thio]-methylcarbamate is obtained as a yellow oil; MD24 :1.5658.

reactant | 1,5-benzodioxepin-6-ol | 0.025 mol | O1CC=COC2=C1C=CC=C2O | C9H8O3
reactant | N-trichloromethylthio-N-methyl carbamyl chloride | ClC(SN(C(=O)Cl)C)(Cl)Cl | C3H3Cl4NOS
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 3,4-dihydro-2H-1,5-benzodioxepin-6-yl-[(trichloromethyl)thio]-methylcarbamate | O1CCCOC2=C1C=CC=C2OC(N(C)SC(Cl)(Cl)Cl)=O | C12H12Cl3NO4S
